US09334263B2
A mixture of 4-nitro-1H-pyrazole (1.6 g, 13.9 mmol), 1-chloro-2-methylpropan-2-ol (1.5 g, 13.9 mmol) and Cs2CO3 (9.1 g, 27.8 mmol) in DMF (20 mL) was stirred at 80° C. for 5 h. The reaction mixture was cooled to RT and diluted with EA (200 ml). The organic phase was washed by water (50 mL) and brine (50 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 2-methyl-1-(4-nitro-1H-pyrazol-1-yl)propan-2-ol as a yellow oil (2.0 g, 78%), which was used for the next step without further purification. MS (ES+) C7H11N3O3 requires: 185, found: 186 [M+H]+.

reactant | 4-nitro-1H-pyrazole | 13.9 mmol, 1.6 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 1-chloro-2-methylpropan-2-ol | 13.9 mmol, 1.5 g | ClCC(C)(O)C | C4H9ClO
reactant | Cs2CO3 | 27.8 mmol, 9.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EA | 200 ml | CC(OCC)=O | C4H8O2
product | 2-methyl-1-(4-nitro-1H-pyrazol-1-yl)propan-2-ol | 2.0 g, 78% | CC(CN1N=CC(=C1)[N+](=O)[O-])(C)O | C7H11N3O3
